US08030311B2
N-(3′-Bromo-2-trifluoromethyl-biphen-4-yl)-2-(4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetamide
The title compound is prepared as described in Example 1 but using 3′-bromo-2-trifluoromethyl-biphen-4-ylamine and (4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid. Title compound: ES-MS: 552.8 [M+H]+; tR=5.24 min (System 1); Rf=0.20 (CH2Cl2/MeOH, 96:4).

reactant | 3′-bromo-2-trifluoromethyl-biphen-4-ylamine | BrC=1C=C(C2=CC=C(C=C2C(F)(F)F)N)C=CC1 | C13H9BrF3N
reactant | (4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetic acid | N1=CN(C2=NC=CC=C21)C2=CC=C(C=C2)CC(=O)O | C14H11N3O2
solvent | CH2Cl2 MeOH | C(Cl)Cl.CO
product | N-(3′-Bromo-2-trifluoromethyl-biphen-4-yl)-2-(4-imidazo[4,5-b]pyridin-3-yl-phenyl)-acetamide | BrC=1C=C(C2=CC=C(C=C2C(F)(F)F)NC(CC2=CC=C(C=C2)N2C=NC=3C2=NC=CC3)=O)C=CC1 | C27H18BrF3N4O
